US06887896B1
Ethyl (2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-43)
As described in General Procedure F-1, 1-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)ethanone (Compound A-24, 240 mg, 0.840 mmol) and triethyl 2-fluoro-2-phosphonoacetate (0.51 mL, 2.52 mmol) were reacted with lithium diisopropylamide (2.60 mmol) in THF (2 mL) to produce the title compound after purification by flash column chromatography (silica gel, 97:3 hexane/ethyl acetate).

reactant | 1-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)ethanone | 0.840 mmol, 240 mg | CC1(CC=C(C2=CC(=C(C=C12)OCC)C(C)=O)C(C)C)C | C19H26O2
reactant | triethyl 2-fluoro-2-phosphonoacetate | 2.52 mmol, 0.51 mL | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | lithium diisopropylamide | 2.60 mmol | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl (2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C23H31FO3
